US04064259
In this preparation 1.0 mole of p-toluenesulfonyl chloride is dissolved in 700 ml. of pyridine at 0° C, under nitrogen, and then 1.0 mole of hex-5-en-1-ol is added dropwise. The mixture is then stirred at room temperature for 16 hours, then poured into ice water and extracted with ethyl ether. The ethyl ether extract is then sequentially washed with water, 10% aqueous hydrochloric acid, water, aqueous 10% sodium bicarbonate solution and water, and then dried over magnesium sulfate and filtered. The filtrate is evaporated to dryness, under vacuum, affording hex-5-en-1-ol tosylate as a residue.

reactant | p-toluenesulfonyl chloride | 1.0 mole | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hex-5-en-1-ol | 1.0 mole | C(CCCC=C)O | C6H12O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | hex-5-en-1-ol tosylate | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCC=C | C13H18O3S
